US05814407
Synthesis of N-(β-D-glucopyranosyl)-N-tetradecyl-acrylamide: "acrylamidosugar" AC14
A solution of 85 mmol (9 g) of sodium carbonate in 25 ml of water is added to a solution of 13.7 mmol (4 g) of N-tetradecyl-β-D-glucopyranosylamine in 190 ml of THF. A solution of 26 mmol (2.0 ml) of acryloyl chloride in 20 ml of THF is added dropwise over one hour. The THF is evaporated off and the acylamidosugar is then extracted with 300 ml of ethyl acetate. The organic phase is washed with a saturated solution of NaHCO3, dried over MgSO4 and evaporated at reduced pressure.

reactant | sodium carbonate | 85 mmol, 9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-tetradecyl-β-D-glucopyranosylamine | 13.7 mmol, 4 g | C(CCCCCCCCCCCCC)N[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C20H41NO5
reactant | acryloyl chloride | 26 mmol, 2.0 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | water | 25 ml | O | H2O
solvent | THF | 190 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(β-D-glucopyranosyl)-N-tetradecyl-acrylamide | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)N(C(C=C)=O)CCCCCCCCCCCCCC | C23H43NO6
